US07282501B2
Step E: 2-{2-Methoxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid
A 25 mL round bottomed flask was charged with 2-{2-methoxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester (0.039 g, 0.087 mmol), ethanol (2 mL), and then aqueous 2N NaOH (0.22 mL, 0.44 mmol). The solution was heated at 55° C. for 1 h. The mixture was concentrated, acidified using 5% H2SO4 (1.5 mL), and partitioned between CH2Cl2 (15 mL) and brine (15 mL). The organic layer was dried (Na2SO4), filtered, and concentrated and to give a white solid (0.024 g, 66%). MS (ES) m/e 426 (M+1).

reactant | 2-{2-methoxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | 0.087 mmol, 0.039 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)COC)=O | C26H31NO6
reactant | NaOH | 0.44 mmol, 2N, 0.22 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-{2-Methoxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid | 0.024 g, 66% | COCC1=C(OC(C(=O)O)(C)C)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C24H27NO6
